US08058447B2
Isopropyl 5-cyano-2,6-dimethyl-4-(2-methyl-5-nitro-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate
32 mg (0.137 mmol) of 2-methyl-5-nitro-4-oxo-4H-chromene-8-carbaldehyde are dissolved with 19.7 mg (0.137 mmol) of isopropyl acetoacetate, 11.26 mg (0.137 mmol) of 3-aminocrotononitrile and 8.24 mg (0.137 mmol) of acetic acid in 3 ml of 2-propanol and heated under reflux under argon for 6 h. The solvent is removed in vacuo, and the residue is purified by preparative HPLC. 13 mg (22.3% of theory) of the title compound are obtained as a yellow solid.

reactant | 2-methyl-5-nitro-4-oxo-4H-chromene-8-carbaldehyde | 0.137 mmol, 32 mg | CC=1OC2=C(C=CC(=C2C(C1)=O)[N+](=O)[O-])C=O | C11H7NO5
reactant | isopropyl acetoacetate | 0.137 mmol, 19.7 mg | C(CC(=O)C)(=O)OC(C)C | C7H12O3
reactant | 3-aminocrotononitrile | 0.137 mmol, 11.26 mg | N\C(=C/C#N)\C | C4H6N2
reactant | acetic acid | 0.137 mmol, 8.24 mg | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 3 ml | CC(C)O | C3H8O
product | Isopropyl 5-cyano-2,6-dimethyl-4-(2-methyl-5-nitro-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate | C(#N)C=1C(C(=C(NC1C)C)C(=O)OC(C)C)C=1C=CC(=C2C(C=C(OC12)C)=O)[N+](=O)[O-] | C22H21N3O6
